US07838524B2
1-{5-tert-Butyl-2-[3-(3-hydroxy-propylamino)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea
To a solution of 1-[2-(3-amino-phenyl)-5-tert-butyl-2H-pyrazol-3-yl]-3-[4-(pyridin-4-yloxy)-phenyl]-urea (100 mg, 0.23 mmol), 3-[(tert-butyldimethylsilyl)oxy]-1-propanal (47 mg, 0.25 mmol, 1.1 eq), and sodium triacetoxyborohydride (67 mg, 0.32 mmol, 1.4 eq) in anhydrous THF (2 mL) was added acetic acid (16 mg, 0.27 mmol, 1.2 eq). The reaction mixture was stirred under N2 at room temperature for 2 h. The reaction mixture was quenched with saturated NaHCO3 and extracted with EtOAc. The combined organic phases were washed with brine, dried over Na2SO4 and concentrated at reduced pressure. The crude residue was purified by MPLC (eluting with 40:60 to 60:40 EtOAc/hexanes) to give 117 mg (84%) of 1-(5-tert-butyl-2-{3-[3-(tert-butyl-dimethyl-silanyloxy)-propylamino]-phenyl}-2H-pyrazol-3-yl)-3-[4-(pyridin-4-yloxy)-phenyl]-urea. 1H-NMR (DMSO-d6) δ 9.17 (s, 1H), 8.40 (dd, J=1.5 & 4.6 Hz, 2H), 8.31 (s, 1H), 7.48 (d, J=8.8 Hz, 2H), 7.17 (t, J=8.1 Hz, 1H), 7.07 (d, J=8.8 Hz, 2H), 6.85 (dd, J=1.6 & 4.9 Hz, 2H), 6.61-6.56 (m, 3H), 6.32 (s, 1H), 5.92 (t, J=5.6 Hz, 1H), 3.66 (t, J=6.1 Hz, 2H), 3.07 (q, J=7.5 Hz, 2H), 1.72 (quintet, J=6.8 Hz, 2H), 1.26 (s, 9H), 0.84 (s, 9H), 0.02 (s, 6H); MS LC-MS [M+H]+=615.4, RT=3.28 min. Step 2: To a solution of 1-(5-tert-butyl-2-{3-[3-(tert-butyl-dimethyl-silanyloxy)-propylamino]-phenyl}-2H-pyrazol-3-yl)-3-[4-(pyridin-4-yloxy)-phenyl]-urea (117 mg, 0.19 mmol) in methanol (2 mL) was added a solution of 10% TFA in H2O (2 mL). The reaction was stirred at room temperature overnight. The mixture was then diluted with DCM, basified by the addition of saturated aq NaHCO3 and extracted with DCM. The combined organic phases were washed with brine, dried over MgSO4, and concentrated at reduced pressure. The crude residue was purified by MPLC (eluting with 4% to 5.5% MeOH in DCM) to give 82 mg (86%) of the desired product 1-{5-tert-butyl-2-[3-(3-hydroxy-propylamino)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea. 1H-NMR (DMSO-d6) δ 9.18 (s, 1H), 8.40 (dd, J=1.7 & 4.7 Hz, 2H), 8.32 (s, 1H), 7.48 (d, J=9.0 Hz, 2H), 7.17 (t, J=7.9 Hz, 1H), 7.07 (d, J=9.1 Hz, 2H), 6.85 (dd, J=1.5 & 4.7 Hz, 2H), 6.63-6.56 (m, 3H), 6.33 (s, 1H), 5.91 (t, J=5.3 Hz, 1H), 4.47 (t, J=5.1 Hz, 1H), 3.48 (q, J=6.1 Hz, 2H), 3.06 (q, J=6.6 Hz, 2H), 1.69 (quintet, J=6.5 Hz, 2H), 1.26 (s, 9H); MS LC-MS [M+H]+=501.2, RT=2.29 min.

reactant | 1-(5-tert-butyl-2-{3-[3-(tert-butyl-dimethyl-silanyloxy)-propylamino]-phenyl}-2H-pyrazol-3-yl)-3-[4-(pyridin-4-yloxy)-phenyl]-urea | 0.19 mmol, 117 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)NCCCO[Si](C)(C)C(C)(C)C)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1 | C34H46N6O3Si
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-{5-tert-Butyl-2-[3-(3-hydroxy-propylamino)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea | 82 mg, 86% | C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)NCCCO)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1 | C28H32N6O3
